### PR TITLE
Add choose_and_add custom example

### PR DESCRIPTION
**Pull request by cascade77**
Adds a new custom Rust example `choose_and_add.rs`.

Includes:
- generated default and axiomatized Rocq translations
- links instances for `choose_u32`, `add_pair`, and `choose_and_add`
- simulate proofs showing equivalence with functional Rocq definitions

Checked:
- `PATH="/tmp:$PATH" make examples/default/examples/custom/simulate/choose_and_add.vo`

Note:
`run_tests.py` failed locally on unrelated existing examples, so I regenerated the translations for this example manually using the same translator command. This was confirmed acceptable before opening the PR.

### CODE REVIEW

File: RocqOfRust/examples/default/examples/custom/links/choose_and_add.v [hunk 1]
```diff
@@ -0,0 +1,33 @@
+Require Import links.RocqOfRust.
+Require Import examples.default.examples.custom.choose_and_add.
+
+Instance run_choose_u32 (take_left : bool) (left right : u32) :
+  Run.Trait choose_u32 [] [] [φ take_left; φ left; φ right] u32.
+Proof.
+    constructor.
+    run_symbolic.
```
Comment (clarus) [inline RocqOfRust/examples/default/examples/custom/links/choose_and_add.v]:
```suggestion
  constructor.
  run_symbolic.
```
With a double space indentation as convention.

File: RocqOfRust/examples/default/examples/custom/simulate/choose_and_add.v [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+ selected +i offset.
+
+ Lemma choose_u32_eq (take_left : bool) (x y : u32) :
+  {{
+    SimulateM.eval_f (run_choose_u32 take_left x y) []%stack 🌲
+    (Output.Success (choose_u32 take_left x y), []%stack)
+  }}.
+Proof.
+  unfold choose_u32.
+  destruct take_left; s.
```
Comment (clarus) [inline RocqOfRust/examples/default/examples/custom/simulate/choose_and_add.v:27]: 👍

File: RocqOfRust/examples/default/examples/custom/simulate/choose_and_add.v [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+Proof.
+  destruct pair as [x y].
+  unfold add_pair; cbn.
+  with_strategy transparent [run_add_pair] cbn.
+  repeat (
+    cbn ||
+    get_can_access ||
+    eapply Run.Call ||
+    apply Run.Pure
+  ).
```
Comment (clarus) [inline RocqOfRust/examples/default/examples/custom/simulate/choose_and_add.v]:
```suggestion
  s.
```
The `s` tactic also works (s for sequence). This is a more recent `rocq-of-rust` tactic compared to the others. It is to avoid having to make these `repeat` statements. The definition of it is in https://github.com/formal-land/rocq-of-rust/blob/main/RocqOfRust/simulate/M.v Tactic names are short, this is not very good programming practice but it helps going faster with shorter names.

File: RocqOfRust/examples/default/examples/custom/simulate/choose_and_add.v [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+  eapply Run.Call.
+  { apply choose_u32_eq. }
+  repeat (
+    cbn ||
+    get_can_access ||
+    apply Run.LetUnfold ||
+    eapply Run.Call ||
+    apply Run.Pure
+  ).
```
Comment (clarus) [inline RocqOfRust/examples/default/examples/custom/simulate/choose_and_add.v]:
```suggestion
  s. {
    apply choose_u32_eq.
  }
  s.
```
Using the `s` tactic. Things not handled in it: call to other functions, like here `choose_u32`, and unfolding that has to be done manually at the start. This is to better control the execution time and avoid some situations where it gets out of control, but hopefully we will eventually be able to automate more of it.

**Review by clarus — APPROVED** [review]
